US07678834B2
7.58 g 4-dimethylamino-4-phenethylcyclohexanone were dissolved in 45 ml analytical grade tetrahydrofuran, 43 ml 1.0 molar phenethylmagnesium chloride solution in THF were added under a nitrogen atmosphere, while cooling in an ice-bath, and the mixture was stirred overnight at room temperature. For working up, 43 ml ammonium chloride solution (20 per cent by weight) were added, while cooling with ice, and the mixture was extracted three times with 80 ml diethyl ether each time, the combined organic phases were extracted three times with 70 ml dilute hydrochloric acid (5 per cent by weight) each time, the combined aqueous extracts were washed with 50 ml diethyl ether, adjusted to pH 9 with ammonia solution (25 per cent by weight) and extracted three times with 80 ml methylene chloride each time, the combined methylene chloride extracts were dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. The crude product obtained (9.57 g) was chromatographed over silica gel with diethyl ether/hexane (v/v=1:1). 938 mg of the nonpolar diastereoisomer of 4-dimethylamino-1,4-diphenethylcyclohexanol obtained were dissolved in 7.5 ml 2-butanone, 26 μl water followed by 371 μl trimethylchlorosilane were added at room temperature and the mixture was stirred overnight at room temperature. The white solid which had precipitated out was filtered with suction, washed with diethyl ether and dried in an oil pump vacuum. 1.00 g of the hydrochloride of the nonpolar diastereoisomer of 4-dimethylamino-1,4-diphenethylcyclohexanol were obtained.

reactant | 4-dimethylamino-4-phenethylcyclohexanone | 7.58 g | CN(C1(CCC(CC1)=O)CCC1=CC=CC=C1)C | C16H23NO
reactant | ammonium chloride | 43 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | phenethylmagnesium chloride | 1.0 molar, 43 ml | C(CC1=CC=CC=C1)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | 4-dimethylamino-1,4-diphenethylcyclohexanol | CN(C1(CCC(CC1)(O)CCC1=CC=CC=C1)CCC1=CC=CC=C1)C | C24H33NO
